US07423030B2
58.1. (3S)-1-(Naphthalen-2-ylmethyl)-3-tert-butyloxycarbonylamino-pyrrolidine
This compound was obtained via the reductive amination method described in 49.2, by reaction of (S)-3-tert-butyloxycarbonylaminopyrrolidine with 2-naphthaldehyde. The residue is purified on a column of silica (eluent: from 100/0 to 90/10 (v/v) dichloromethane/methanol).

reactant | (S)-3-tert-butyloxycarbonylaminopyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1CNCC1 | C9H18N2O2
reactant | 2-naphthaldehyde | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
product | (3S)-1-(Naphthalen-2-ylmethyl)-3-tert-butyloxycarbonylamino-pyrrolidine | C1=C(C=CC2=CC=CC=C12)CN1C[C@H](CC1)NC(=O)OC(C)(C)C | C20H26N2O2
